US07442713B2
50 ml of HCl 10% are added to ethyl 3-[5-(2-acetylaminopyridin-4-yl)-4-(4-fluorophenyl)-1-methyl-1H-imidazol-2-ylsulfanyl]propionate (0.67 mmol/0.297 g), and the mixture is stirred at room temperature for 6 h. The mixture is then slowly neutralized using 2N NaOH, resulting in the precipitation of 3-[5-(2-aminopyridin-4-yl)-4-(4-fluorophenyl)-1-methyl-1H-imidazol-2-ylsulfanyl]propionic acid as a whitish powder. The precipitate is filtered off with suction, washed with a little ice-cold water and dried over P2O5.

reactant | ethyl 3-[5-(2-acetylaminopyridin-4-yl)-4-(4-fluorophenyl)-1-methyl-1H-imidazol-2-ylsulfanyl]propionate | 0.67 mmol, 0.297 g | C(C)(=O)NC1=NC=CC(=C1)C1=C(N=C(N1C)SCCC(=O)OCC)C1=CC=C(C=C1)F | C22H23FN4O3S
reactant | NaOH | 2N | [OH-].[Na+]
solvent | HCl | 50 ml | Cl | ClH
product | 3-[5-(2-aminopyridin-4-yl)-4-(4-fluorophenyl)-1-methyl-1H-imidazol-2-ylsulfanyl]propionic acid | NC1=NC=CC(=C1)C1=C(N=C(N1C)SCCC(=O)O)C1=CC=C(C=C1)F | C18H17FN4O2S
